US06596746B1
A suspension of 3-nitrophenol (837 mg, 6.02 mmole), 1-chloro-3-[imidazo-1-yl]-propane (871 mg, 1 eq), K2CO3 (3.3 gm, 4 eq) and NaI (1.0 gm, 1.1 eq) in DMF was heated at 120° C. for 6 hr. After cooling to RT, the reaction was filtered and the filter cake was washed with DMF. The solvent was removed from the filtrate and the residue was chromatographed (radial chromatography; 4 mm silica gel plate that was eluted with a step gradient of DCM containing 0, 1, 2.5, 5, 7.5% MeOH) to afford 400 mg of 3-[3-imidazo-1-ylpropyloxy]]-nitrobenzene. This was treated with 10% palladium on charcoal (400 mg) in EtOH under a hydrogen atmosphere for 4 hr. Removal of the catalyst and the solvent left 3-[3-imidazo-1-ylpropyloxy]]-aniline was then coupled with 319A as described for 570 to afford 576 (HPLC retention time (YMC ODS S5 4.6×30 mm): 1.33 min). Beginning with 4-nitrophenol and 1-chloro-3-[imidazo-1-yl]-propane 577 (HPLC retention time (YMC ODS S5 4.6×30 mm): 1.42 min) was prepared in a similar manner as 576.

reactant | 3-nitrophenol | 6.02 mmole, 837 mg | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | K2CO3 | 3.3 gm, 4 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 1.0 gm, 1.1 eq | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
